US08049011B2
1 g of product of R-2-(2-(4-((4-chlorophenyl)(phenyl)methyl)piperazin-1-yl-2-oxoethoxy)acetic acid was dissolved in 10 ml of dry tetrahydrofurane at 0° C. During intensive stirring 0.23 ml of oxalylchloride was added dropwise. After half an hour when the conversion of acid to acid chloride was completed 0.8 ml of dimethylsulphide borane complex (10 M calculated on BH3) was added in three portion. After the reaction was completed, the reaction mixture was poured in water (250 ml) and additionally stirred for half an hour. To the suspension 100 ml of ethyl acetate was added, pH was adjusted to 10 and the phases were separated. To the water phase 100 ml of methylene chloride was added, pH was adjusted with concentrated hydrochloric acid to 4.2 and phases were separated: the organic layer was rinsed with water, dried with sodium sulphate and evaporated to dryness. The oil residue was dissolved in 30 ml of acetone and HCl gas was introduced until pH reached the value of less than 1. The reaction mixture was heated to 60° C. and refluxed for 20 minutes. It was cooled to 30-35° C. and then filtered and the cake was washed with 20 ml of acetone. Then it was dried at 50-55° C. under reduced pressure (−0.08˜−0.1 MPa) for 8 hours. 720 mg of levocetirizine dihydrochloride were obtained.

reactant | 2-(4-((4-chlorophenyl)(phenyl)methyl)piperazin-1-yl-2-oxoethoxy)acetic acid | ClC1=CC=C(C=C1)C(N1CCN(CC1)C(COCC(=O)O)=O)C1=CC=CC=C1 | C21H23ClN2O4
reactant | oxalylchloride | 0.23 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
product | levocetirizine dihydrochloride | 720 mg | C=1C=CC(=CC1)[C@H](C=2C=CC(=CC2)Cl)N3CCN(CC3)CCOCC(=O)O.Cl.Cl | InChI=1S/C21H25ClN2O3.2ClH/c22-19-8-6-18(7-9-19)21(17-4-2-1-3-5-17)24-12-10-23(11-13-24)14-15-27-16-20(25)26;;/h1-9,21H,10-16H2,(H,25,26);2*1H/t21-;;/m1../s1
